US07414061B2
d) 2-Bromo-1-[3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazol-4-yl]ethanone
To a solution of 3-(4-fluoro-phenyl)-5-methoxyrnethyl-isoxazole-4-carboxylic acid chloride (2.7 g, 10.0 mmol) in methylene chloride (50 mL) was added diazomethane solution in ether (0.1 N, 100 mL) at ice-bath cooling temperature. The reaction was stirred for 1.5 h at 0° C. and allowed to stand overnight in a freezer at 0° C. An aqueous solution of hydrobromic acid (>40 wt %, 70 mL) was added dropwise to the reaction solution at ice-bath cooling temperature. After complete addition, the resulting mixture was stirred at 0° C. for 0.5 h and then allowed to warm up to room temperature and stirred for 1.5 h. The organic layer was separated, and the aqueous phase was extracted with ether. The combined ether solution was then washed with water and brine, dried over sodium sulphate and evaporated to afford the crude title compound (3.8 g) which was obtained as a light yellow liquid. MS: m/e=328.0/330.4 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-5-methoxyrnethyl-isoxazole-4-carboxylic acid chloride | 10.0 mmol, 2.7 g | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)Cl)COC | C12H9ClFNO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | hydrobromic acid | 70 mL | Br | BrH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 0.1 N, 100 mL | CCOCC | C4H10O
product | 2-Bromo-1-[3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazol-4-yl]ethanone | 3.8 g | BrCC(=O)C=1C(=NOC1COC)C1=CC=C(C=C1)F | C13H11BrFNO3
